US06319915B1
3-Bromo-5-(2-Methylphenyl)-7-phenyl-2,3,4,5,6,7-hexahydroazepin-2-one:
To a 250 mL round-bottomed flask equipped with addition funnel and nitrogen inlet were added 3.5 grams (16.8 mol) phosphorus pentachloride and 25 mL dry methylene chloride. The mixture was cooled with stirring to 0° C., and a solution of 4.7 grams (16.8 mmol) 5-(2-methlphenyl)-7-phenyl-2,3,4,5,6,7-hexahydroazepin-2-one and 2.7 mL (33.6 mmol) pyridine in 50 mL methylene chloride was added drop wise over 20 minutes. The reaction was stirred 5 minutes at 0° C., then 1.9 mL (37.0 mmol) bromine in 5 mL methylene chloride was added drop wise over 5 minutes. The reaction was stirred 5 minutes at 0° C., then 1.8 hours at room temperature. The reaction was evaporated, taken up in 40 mL of 1:1 tetrahydrofuran: water, and stirred for 1.2 hours. The reaction was then poured into water and extracted into ethyl acetate. The organic layer was washed with aqueous sodium bisulfite solution and brine, dried over sodium sulfate, and evaporated to an oil. At this point, a little of the desired monobrominated product can be recovered by chromatography, as described below; the remainder, mostly dibromo adduct, is treated an follows. The oil was taken up in 20 mL methylene chloride and 20 mL ethanol, and hydrogenated under 42 p.s.i. hydrogen in the presence of 0.70 grams 10% palladium-on-carbon and 7 drops of quinoline for 1 hour. Tlc showed mostly desired monobromo product at Rf=0.5, with a little dibromo precursor at Rf=0.7 and starting lactam at Rf=0.15, in 1/1-ethyl acetate/hexane. The reaction was filtered through Celite with ethanol and methylene chloride, evaporated, and chromatographed on silica gel using 2/1-hexane/ethyl acetate as eluent to afford 2.8 grams (46%) of a foam, a mixture of diastereomers.

reactant | phosphorus pentachloride | 16.8 mol, 3.5 grams | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 5-(2-methlphenyl)-7-phenyl-2,3,4,5,6,7-hexahydroazepin-2-one | 16.8 mmol, 4.7 grams | CC1=C(C=CC=C1)C1CCC(NC(C1)C1=CC=CC=C1)=O | C19H21NO
reactant | pyridine | 33.6 mmol, 2.7 mL | N1=CC=CC=C1 | C5H5N
reactant | bromine | 37.0 mmol, 1.9 mL | BrBr | Br2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-5-(2-Methylphenyl)-7-phenyl-2,3,4,5,6,7-hexahydroazepin-2-one | 2.8 grams, 46% | BrC1C(NC(CC(C1)C1=C(C=CC=C1)C)C1=CC=CC=C1)=O | C19H20BrNO
